US06015826
Into a 1 L three necked round bottom flask equipped with a magnetic stirrer and condenser under an atmosphere of nitrogen was added N-benzenesulfonyl-N-methyl-2,6-dichlorobenzoyl hydrazine (35.9 g, 0.10 mol), 1,2-dichloroethane (500 mL), and phosphorus pentachloride (31.2 g, 0.15 mol). The temperature of the mixture was raised to the point of reflux and was allowed to stir for 30 min. The solvent was removed in vacuo and the residue dissolved in methylene chloride and carefully diluted with water. The organic phase was washed with water, brine, dried (Na2SO4) and the solvent removed in vacuo to give an oil which solidified when triturated with ethyl acetate/hexanes mixture to give 36.1 g (95.7% yield) N-benzenesulfonyl-N-methyl-2,6-dichlorobenzhydrazonoyl chloride as a white crystalline solid: mp 103-104° C.; 1H NMR (CDCl3) δ 7.9 (m, 2H), 7.4-7.7 (m, 3H), 7.2-7.4 (m, 3H), 3.1 (s, 3H).

reactant | N-benzenesulfonyl-N-methyl-2,6-dichlorobenzoyl hydrazine | 0.10 mol, 35.9 g | C1(=CC=CC=C1)S(=O)(=O)N(NC(C1=C(C=CC=C1Cl)Cl)=O)C | C14H12Cl2N2O3S
reactant | phosphorus pentachloride | 0.15 mol, 31.2 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | 1,2-dichloroethane | 500 mL | ClCCCl | C2H4Cl2
product | N-benzenesulfonyl-N-methyl-2,6-dichlorobenzhydrazonoyl chloride | 36.1 g, 95.7% yield | C1(=CC=CC=C1)S(=O)(=O)N(N=C(C1=C(C=CC=C1Cl)Cl)Cl)C | C14H11Cl3N2O2S
